US07935848B2
5-isopropyl-5,6-dimethyl-1-phenylheptan-4-one
The title compound was prepared following the general procedure of Example 1 starting from 2-isopropyl-2,3-dimethylbutanal and (3-phenylpropyl)magnesium bromide.

reactant | 2-isopropyl-2,3-dimethylbutanal | C(C)(C)C(C=O)(C(C)C)C | C9H18O
reactant | (3-phenylpropyl)magnesium bromide | C1(=CC=CC=C1)CCC[Mg]Br
product | 5-isopropyl-5,6-dimethyl-1-phenylheptan-4-one | C(C)(C)C(C(CCCC1=CC=CC=C1)=O)(C(C)C)C | C18H28O
